US08975254B2
3-acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (150 mg) and 3-acetyl-1H-pyrazole-5-carboxylic acid (94 mg) using the method of Example 34(d). Yield 84 mg. 1H-NMR (400 MHz; d6-DMSO): δ 3.30 (s, 3H), 3.71 (q, 2H), 4.39 (t, 2H), 7.05 (d, 1H), 7.27 (br. s, 1H), 7.88 (d, 1H), 8.18 (d, 1H), 8.33 (d, 1H), 8.45-8.75 (m, 1H), 8.66 (d, 1H), 14.16 (s, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 150 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 94 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | 3-acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)NCCN1N=C(C=C1)C1=CC(=C(C=C1)C#N)[N+](=O)[O-] | C18H15N7O4
